US08809342B2
5-amino-pyrimidine-2-carboxylic acid methyl ester (2.000 g, 13.06 mmol) was suspended in acetonitrile (20 mL). 4-Dimethylaminopyridine (1.600 g, 13.1 mmol) was added and the reaction placed in an ice bath. Di-tert-butyl dicarbonate (4.700 g, 21.5 mmol) was then added and the reaction was stirred at reflux. At 2.5 h, the reaction was concentrated, sat. NH4Cl and ethyl acetate were added, and with stirring the pH was carefully adjusted to ˜4 with 1 N HCl. The layers were separated and the aqueous was extracted with ethyl acetate. The combined organics were dried over MgSO4. Purification by silica gel flash chromatography (ethyl acetate/heptane) gave 5-tert-butoxycarbonylamino-pyrimidine-2-carboxylic acid methyl ester impure with ethyl acetate (2.583 g, 74%) as a white solid. 1H NMR (400 MHz, DMSO-d6, δ): 10.17 (s, 1 H) 8.98 (s, 2 H) 3.87 (s, 3 H) 1.50 (s, 9 H); MS (M+1): 254.2.

reactant | 5-amino-pyrimidine-2-carboxylic acid methyl ester | 13.06 mmol, 2.000 g | COC(=O)C1=NC=C(C=N1)N | C6H7N3O2
reactant | Di-tert-butyl dicarbonate | 21.5 mmol, 4.700 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | 4-Dimethylaminopyridine | 13.1 mmol, 1.600 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-tert-butoxycarbonylamino-pyrimidine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=N1)NC(=O)OC(C)(C)C | C11H15N3O4
